US06451740B2
1.0 g of [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid was dissolved in tetrahydrofuran, to this was added 0.7 ml of thionyl chloride while stirring, then, the mixture was heated while stirring under reflux condition for 2 hours. Then, the solution was allowed to cool, concentrated, then, dissolved in 3 ml of tetrahydrofuran (hereinafter, referred to as Solution B). 0.7 ml of tetrahydrofuran was added to 0.05 g of allyl alcohol, and trisected portions of Solution B were added, then, 0.17 ml of pyridine was added. The mixture was stirred for 2 hours at room temperature, then, 2% aqueous hydrochloric acid was poured into the reaction solution, and extracted with ethyl acetate. The organic layer was washed with saturated saline, and dried over magnesium sulfate, then, concentrated. The residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=5/1) to obtain 0.08 g of allyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate [compound 3-20 of the present invention].

reactant | [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid | 1.0 g | ClC1=C(OC2=C(OCC(=O)O)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13ClF4N2O6
reactant | thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | allyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 0.08 g | ClC1=C(OC2=C(OCC(=O)OCC=C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C23H17ClF4N2O6
